US08080552B2
1.37 g (54.3 mmol) sodium hydride was given to a solution of 7.19 g (51.7 mmol) 4-nitrophenol in 97 ml DMF. Stirring was continued for 30 min. at room temperature. 9.70 g (51.7 mmol) 3-(4-Chloro-pyrimidin-2-ylamino)-propan-1-ol was added and the mixture heated to 140° C. for 15 h. The reaction mixture was evaporated, taken up with water and extracted with dichloromethane. The organic phase was extracted with sodium carbonate solution, dried (sodium sulphate) and evaporated. The obtained yellow oil (11 g) was dissolved in 10 ml dichloromethane and purified by chromatography over silica (ethyl acetate) to give 8.66 g (58%) 3-[4-(4-Nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol

reactant | sodium hydride | 54.3 mmol, 1.37 g | [H-].[Na+]
reactant | 4-nitrophenol | 51.7 mmol, 7.19 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 3-(4-Chloro-pyrimidin-2-ylamino)-propan-1-ol | 51.7 mmol, 9.70 g | ClC1=NC(=NC=C1)NCCCO | C7H10ClN3O
solvent | DMF | 97 ml | CN(C)C=O | C3H7NO
product | 3-[4-(4-Nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 8.66 g, 58% | [N+](=O)([O-])C1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H14N4O4
